US08304556B2
B-03a) 4-[2-(4-Bromo-2-fluoro-phenoxy)-ethyl]-morpholine
4-Bromo-2-fluorophenol (16.7 g, 87.4 mmol) is dissolved in 100 mL DMF. N-(2-Chloro-ethyl)morpholine hydrochloride (18.5 g, 99.4 mmol), potassium carbonate (28.0 g, 203 mmol) and potassium iodide (100 mg, 0.602 mmol) are added and the reaction mixture is stirred for 3 h at 65° C. The reaction mixture is poured in water and extracted with ethyl acetate. The combined organic phases are washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. Yield: 27.7 g.

reactant | 4-Bromo-2-fluorophenol | 87.4 mmol, 16.7 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | N-(2-Chloro-ethyl)morpholine hydrochloride | 99.4 mmol, 18.5 g | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 203 mmol, 28.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.602 mmol, 100 mg | [I-].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[2-(4-Bromo-2-fluoro-phenoxy)-ethyl]-morpholine | BrC1=CC(=C(OCCN2CCOCC2)C=C1)F | C12H15BrFNO2
